2136-02-15 09:48:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status'
   Hyperkalemia
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2136-2-14**] 10:31 PM
 FEVER - 102.6
F - [**2136-2-14**] 09:50 PM
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2136-2-14**] 11:00 PM
   Ceftriaxone - [**2136-2-14**] 11:15 PM
   Azithromycin - [**2136-2-15**] 01:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2136-2-14**] 10:45 PM
   Insulin - Regular - [**2136-2-14**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2136-2-15**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-15**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.1
C (98.8
   HR: 80 (80 - 90) bpm
   BP: 134/49(68) {117/41(68) - 167/68(96)} mmHg
   RR: 30 (28 - 39) insp/min
   SpO2: 88%
   Heart rhythm: V Paced
             Total In:
                                                                    648 mL
                                                                  1,612 mL
   PO:
             TF:
   IVF:
                                                                    598 mL
                                                                  1,612 mL
   Blood products:
   Total out:
                                                                    165 mL
                                                                    455 mL
   Urine:
                                                                    165 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    483 mL
                                                                  1,157 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 88%
   ABG: 7.41/22/43/13/-7
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Oriented (to): Person, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.4 g/dL
   131 K/uL
   100 mg/dL
   2.4 mg/dL
   13 mEq/L
   5.7 mEq/L
   50 mg/dL
   108 mEq/L
   134 mEq/L
   25.1 %
   10.8 K/uL
        [image002.jpg]
                             [**2136-2-15**]  02:02 AM
                             [**2136-2-15**]  02:35 AM
                             [**2136-2-15**]  04:57 AM
                             [**2136-2-15**]  06:32 AM
   WBC
   9.4
   10.8
   Hct
   26.2
   25.1
   Plt
   153
   131
   Cr
   2.5
   2.4
   TCO2
   14
   Glucose
   139
   100
   Other labs: PT / PTT / INR:15.2/36.1/1.3, Lactic Acid:1.7 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   81 yo male with history of CML now presenting with altered mental
   status and hyperkalemia following clinic visit where patient noted to
   be substnatially somnolent requiring admission.  In the setting of
   sedation for CT scan patient with worsening mental status and to [**Hospital Ward Name **]
   ICU for further care with prominent findings of fever, leukocytosis and
   pulmonary infiltrate.
   1)Altered Mental Status--Likely related to pneumonia as primary insult
   in addition to multiple primary metabolic derangements defined below.
   On balance patient has shown substantial improvement overnight.
   -OOB to chair
   -Rx as below
   -Hold benzodiazepines
   2)Hypekalemia-
   -Improved through to this morning with Kayexalate
   -Will continue with monitoring and minimize any K+ intake
   -repeat Kayexalate to achieve K+ <5.5
   3)Pneumonia-
   -Azithromycin/CTX
   -Follow up sputum cultures, urine legionella and viral cultures
   -Tachypnea persistent and likely related to both
   infection/anxiety/fever contributing to mild metabolic alkalosis as
   well as the metabolic acidosis
   4)Acidemia-Is non-gap at admission and has been demonstrated to be
   likely renal source
   -Will support renal failure
   -Would consider HCO3- for any further worsening combined with worsening
   tachypnea
   5)Acute Renal Failure-Patient with findings to suggest that intrinsic
   renal insult is present--with FENa increased and suggestion of renal
   source of non-anion gap acidosis.  Will need further definition of
   source
   -Renal ultrasound
   -Urine sediment for possible RBC/WBC casts
   -Maintain adequate volume support
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-2-14**] 10:31 PM
   18 Gauge - [**2136-2-15**] 02:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  Patient requesting daughter visit who has
   been contact[**Name (NI) **]
   [**Name2 (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2136-02-16 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status, hyperkalemia
   24 Hour Events:
 EKG - At [**2136-2-15**] 08:06 PM
   - Pt become hypoxic acutely to the low 80s on nasal canula was
   transitioned to hi-flow mask Fi02 50% with improvement in saturation to
   100%. Port CXR showed per our read increased cephalization of pulmonary
   vessels. 20mg Furosemide IV given, pt responded with 950cc urine able
   to transition back to 3l n.c.
   - restarted Toprol XL 25mg daily
   - restarted Levothyroxine 12.5mg daily
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2136-2-14**] 11:00 PM
   Azithromycin - [**2136-2-15**] 01:00 AM
   Ceftriaxone - [**2136-2-15**] 10:05 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2136-2-15**] 04:10 PM
   Heparin Sodium (Prophylaxis) - [**2136-2-16**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-16**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 82 (80 - 103) bpm
   BP: 133/64(93) {118/57(75) - 160/87(105)} mmHg
   RR: 39 (25 - 40) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
             Total In:
                                                                  2,575 mL
                                                                    268 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                  2,575 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  3,245 mL
                                                                    540 mL
   Urine:
                                                                  3,245 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -670 mL
                                                                   -272 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   160 K/uL
   9.8 g/dL
   126 mg/dL
   2.4 mg/dL
   15 mEq/L
   4.6 mEq/L
   51 mg/dL
   101 mEq/L
   131 mEq/L
   29.4 %
   13.2 K/uL
        [image002.jpg]
                             [**2136-2-15**]  02:02 AM
                             [**2136-2-15**]  02:35 AM
                             [**2136-2-15**]  04:57 AM
                             [**2136-2-15**]  06:32 AM
                             [**2136-2-15**]  04:35 PM
                             [**2136-2-16**]  04:07 AM
   WBC
   9.4
   10.8
   13.2
   Hct
   26.2
   25.1
   29.4
   Plt
   153
   131
   160
   Cr
   2.5
   2.4
   2.3
   2.4
   TCO2
   14
   Glucose
   139
   100
   99
   126
   Other labs: PT / PTT / INR:15.5/37.3/1.4, Alk Phos / T Bili:/0.2,
   Differential-Neuts:75.0 %, Band:1.0 %, Lymph:14.0 %, Mono:8.0 %,
   Eos:0.0 %, Lactic Acid:1.7 mmol/L, LDH:308 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Assessment:  81 year-old male with a history of CML who presented to
   clinic with rigors, hyperkalemia, metabolic acidosis and
   acute-on-chronic renal failure.  Admitted for workup and became acutely
   agitated in CT.  Received iv ativan x1 and became unresponsive.
   # Altered Mental Status:  Concern for infectious process given fever to
   102.5, received cefepime in ED.  Cultures sent, received cefepime in
   clinic. UA negative. Originally concerning for meningitis, but patient
   is mentating well without meningeal signs., so PNA is most likely cause
   given LL infiltrates. Repeat WBC 9.4 is down from last evening (11.7).
   CXR with  RLL/LLL PNA on my read.
   - f/u cx
   - Ceftriaxone and azithromycin x 7 days.
   - DFA pending.
   # Hyperkalemia:  Unclear cause, likely due to renal insufficiency or a
   consequence of his non-anion-gap metabolic acidosis. Will not start
   calcium gluconate yet because there are no PR interval changes on the
   ECG.
   -Will start 10 U insulin with D50.
   -Kayexelate per rectum
   -Bicarbonate 45 mEq
   # Non Anion Gap Metabolic Acidosis: Differential diagnosis includes
   diarrhea or type 1, 2, 4 RTA, hyperalimentation, or normal saline fluid
   overload. Unable to determine if patient has been having diarrhea
   recently due to somnolence. Current serum bicarbonate of 13 is
   decreased from 16 tonight. This may be a result impaired ammonium
   excretion secondary to decreasing kidney function, as urinary anion gap
   is +32, which indicates Type 1 or Type 4 RTA
   -Will treat with bicarbonate as above
   -Continue to monitor urine output
   -Renal U/S to evaluate for postrenal causes and kidney size
   .
   # Acute-on-Chronic Renal Failure: Creatinine of 2.6 is above baseline
   of 1.5-2. FeNa is 2.5 which indicates an intrinsic renal deficiency ,
   may be a result of RTA as above. Other diagnoses include interstitial
   nephritis (patient is on ASA) , or ATN, though patient has had renal
   dysfunction over a long period of time and only a mild insufficiency
   lately.
   - Urinary AG is +32, concerning for RTA as above
   - 250 mL normal saline bolus
   # CML: On dasatinib, followed here by Dr. [**Last Name (STitle) 221**]. Per last note by Dr.
   [**Last Name (STitle) 221**], patient has been tolerating dasatinib. Current dose of 50mg
   daily.
   - Will monitor for s/s of bone marrow suppression. Daily CBC.
   - f/u onc recs
   # Hyponatremia: [**Month (only) 8**] be SIADH as patient has neurologic involvement, but
   may also be volume depletion.
   - Urine electrolytes as above
   - Morning cortisol pending
   # CAD s/p CABG [**2114**] (LBBB on previous EKG): Stable.
   -Continue ASA
   # Chronic Diasolic heart failure. (EF 50%): No peripheral edema. Pacer
   in place with HR ~ 80 bpm.
   -Will continue gentle fluid correction with 250mL saline bolus as above
   and continue to monitor.
   # HTN: Stable. Continue to monitor.
   # Hypercholesterolemia: Stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-2-15**] 02:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-02-16 09:33:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   Respiratory Failure
   Hyperkalemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2136-2-15**] 08:06 PM
   Patient with acute respiratory distress and acute pulmonary edema with
   response to Lasix yesterday.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2136-2-14**] 11:00 PM
   Azithromycin - [**2136-2-15**] 01:00 AM
   Ceftriaxone - [**2136-2-15**] 10:05 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2136-2-15**] 04:10 PM
   Heparin Sodium (Prophylaxis) - [**2136-2-16**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2136-2-16**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 81 (80 - 103) bpm
   BP: 120/75(87) {118/63(75) - 160/87(105)} mmHg
   RR: 33 (25 - 40) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
             Total In:
                                                                  2,575 mL
                                                                    292 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                  2,575 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                  3,245 mL
                                                                    540 mL
   Urine:
                                                                  3,245 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -670 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///15/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Dry MM
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : Mild improvement)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   160 K/uL
   126 mg/dL
   2.4 mg/dL
   15 mEq/L
   4.6 mEq/L
   51 mg/dL
   101 mEq/L
   131 mEq/L
   29.4 %
   13.2 K/uL
        [image002.jpg]
                             [**2136-2-15**]  02:02 AM
                             [**2136-2-15**]  02:35 AM
                             [**2136-2-15**]  04:57 AM
                             [**2136-2-15**]  06:32 AM
                             [**2136-2-15**]  04:35 PM
                             [**2136-2-16**]  04:07 AM
   WBC
   9.4
   10.8
   13.2
   Hct
   26.2
   25.1
   29.4
   Plt
   153
   131
   160
   Cr
   2.5
   2.4
   2.3
   2.4
   TCO2
   14
   Glucose
   139
   100
   99
   126
   Other labs: PT / PTT / INR:15.5/37.3/1.4, Alk Phos / T Bili:/0.2,
   Differential-Neuts:75.0 %, Band:1.0 %, Lymph:14.0 %, Mono:8.0 %,
   Eos:0.0 %, Lactic Acid:1.7 mmol/L, LDH:308 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   81 yo male admit with hyperkalemia and hypoxia evolving in the setting
   of altered mental status.  This is in the setting of significant renal
   failure with anion gap acidosis.
   1)Hyperkalemia-
   -Corrected to normal range
   -Was likely related to renal failure
   -Has improved with Rx
   -MOve to qd checking
   2)Respiratory Failure/Respiratory Distress- [**Month (only) 8**] be component of
   aspiration pneumonitis and pneumonia
   -Urine Legionella and Influenza
negative
   -Continue with 7 day course of antibiotics
   -Pulomonary Edema was clearly present yesterday with need for mild
   diuresis and move to even balance today given acute pulmonary edema
   yesterday
   3)Altered Mental Status-Likley multifactorial metabolic insult as
   defined in the initial admission process.   He does have some
   significant improvement with treatment for pneumonia and improved
   stabilization of his volume status.
   -Continue to follow exam
   -Will need to consider patient baseline in formulation of change
   4)Acute Renal Failure
Patient baseline presumed to be near 2.0
   -Continue hydration
   -Will expect to move to baseline with stability of volume status in the
   setting of cardiac dysfunction and need for diuresis
   5)Acidosis
Patient with evolution of anion gap acidosis.  This has
   evolved over past days from non-gap to anion gap.
   -Will pursue ABG for definition of acidemia or alkalemia
   -As initial pass will look to lactate and ketones for possible source
   -This was similar at presentation but the AG is up a bit from admission
   in what should be a path to improvement
   6) CAD-
   ASA
   Lopressor
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition: Cardiac Diet
will need to encourage po intake
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-2-15**] 02:30 AM
   Prophylaxis:
   DVT: Heparin Sq
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2136-02-17 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AMS, Hyperkalemia
   24 Hour Events:
   - Patient has an anion gap metabolic acidosis - For workup:
   1. UA was checked for ketones and was negative.
   2. Lactate was checked and was normal at 1.5.
   3. ABG was checked and was 7.49/18/73, bicarb 15; Alkalemia,
   respiratory alkalosis and AG metabolic acidosis, delta-delta was 6,
   showing also a non-AG metabolic acidosis.
   - Urinary electrolytes were check and showed a FENA of 0.9 and a FEUrea
   of 42.31%.
   - Had a few episodes of transient hypoxia which were thought to be due
   to poor [**First Name9 (NamePattern2) 4349**] [**Location (un) 118**] and resolved without intervention.
   - Per BMT, are sending B12 and RPR to workup his recent worsening of
   his mental status.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2136-2-14**] 11:00 PM
   Azithromycin - [**2136-2-15**] 01:00 AM
   Ceftriaxone - [**2136-2-16**] 10:16 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-2-17**] 05:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-17**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 82 (80 - 84) bpm
   BP: 97/53(63) {91/50(61) - 137/75(87)} mmHg
   RR: 30 (22 - 38) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
             Total In:
                                                                    490 mL
                                                                     68 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                    290 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    330 mL
   Urine:
                                                                  1,640 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,150 mL
                                                                   -262 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.49/18/73.[**Numeric Identifier 252**]/17/-5
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   150 K/uL
   9.5 g/dL
   99 mg/dL
   2.1 mg/dL
   17 mEq/L
   4.7 mEq/L
   53 mg/dL
   107 mEq/L
   135 mEq/L
   28.1 %
   11.8 K/uL
        [image002.jpg]
                             [**2136-2-15**]  02:02 AM
                             [**2136-2-15**]  02:35 AM
                             [**2136-2-15**]  04:57 AM
                             [**2136-2-15**]  06:32 AM
                             [**2136-2-15**]  04:35 PM
                             [**2136-2-16**]  04:07 AM
                             [**2136-2-16**]  09:46 AM
                             [**2136-2-16**]  04:15 PM
                             [**2136-2-17**]  05:26 AM
   WBC
   9.4
   10.8
   13.2
   11.8
   Hct
   26.2
   25.1
   29.4
   28.1
   Plt
   153
   131
   160
   150
   Cr
   2.5
   2.4
   2.3
   2.4
   2.3
   2.1
   TCO2
   14
   14
   Glucose
   139
   100
   99
   126
   117
   99
   Other labs: PT / PTT / INR:15.5/37.3/1.4, Alk Phos / T Bili:/0.2,
   Differential-Neuts:71.1 %, Band:1.0 %, Lymph:21.0 %, Mono:6.9 %,
   Eos:0.8 %, Lactic Acid:1.5 mmol/L, LDH:308 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Assessment:  81 year-old male with a history of CML who presented to
   clinic with rigors, hyperkalemia, metabolic acidosis and
   acute-on-chronic renal failure.  Admitted for workup and became acutely
   agitated in CT.  Received iv ativan x1 and became unresponsive.
   # Altered Mental Status:  Appears to be resolving, though expressive
   aphasia is more prominent than before.  This may be a result of an
   increased lucidity following normalization of his electrolytes. Unclear
   if this is his baseline. Patient
s daughter is coming in today, so will
   speak to her regarding his baseline. No focal deficits on exam, and CT
   scan of 2 days ago showed no acute process. Unlikely to be related to
   pneumonia, as he has been treated with antibiotics for 3 days, has not
   been febrile, and does not have a leukocytosis. DFA negative, so
   influenza unlikely.
   -Urine legionella, C.Diff, and DFA are all negative.
   -Would consider repeat CT scan or MRI if symptoms worsen or patient is
   not at baseline.
   #Pneumonia: Patient has congestion of pulmonary vessels on CXR, but
   this may be an evolving pneumonia. Patient has been saturating well on
   3L, so O2 via NC has been discontinued. Now saturating 94% on RA.
   - Ceftriaxone and azithromycin x 7 days (Today = Day 3)
   - No CXR necessary for tomorrow morning as yet.
   # Hyperkalemia:  Resolving. Normal this morning at 4.8. Unclear cause,
   likely due to renal insufficiency or a consequence of his chronic
   metabolic acidosis. Will not start calcium gluconate yet because there
   are no PR interval changes on the ECG.
   -Will check K level again at 5 PM
   -Bicarbonate repletion
   -If needed, would add D50 bolus with 10 U insulin to correct, or
   Kayexelate PR PRN.
   #Acid/base status: ABG of 7.49/18/73 and bicarbonate of 15. This is
   likely a respiratory compensation for a chronic metabolic acidosis,
   which may be due to his underlying kidney disease, or may be due to
   chronic hyperkalemia (H+/K+ membrane exchange). He has evolved from a
   non-anion gap to anion gap acidosis, but ABG reveals an alkalemia.
   Albumin levels are normal at 4.5. Lactate level of 1.5 makes lactic
   acidosis unlikely, urine was negative for ketones, so DKA unlikely.
   Patient previously had a non-anion gap metabolic acidosis yesterday of
   which the differential diagnosis included diarrhea or type 1, 2, 4 RTA,
   hyperalimentation, or normal saline fluid overload. Renal ultrasound
   showed no evidence of hydronephrosis and an incidental left renal cyst.
   -Will obtain urine Na, Cr, Cl, and Osm to calculate urinary anion gap
   and fractional excretion of sodium
   -Would obtain renal consult to ascertain other possible etiologies
   -Will treat with bicarbonate as above
   -Continue to monitor urine output (3245 mL in the past 24 hours)
   -Will obtain U/A for urine pH
   # Acute-on-Chronic Renal Failure: Creatinine of 2.4 is above baseline
   of 1.5-2. FeNa yesterday was 2.5, which indicated renal etiology, and
   is unlikely to have changed over the interval.
   - Urinary electrolytes and Osm as above
   - Would consider renal consult as above
   - Goal I/O: even. 250 mL normal saline boluses PRN
   hypotension/tachycardia.
   # CML: On dasatinib, followed here by Dr. [**Last Name (STitle) 221**]. Per last note by Dr.
   [**Last Name (STitle) 221**], patient has been tolerating dasatinib. Current dose of 50mg
   daily.
   - Will monitor for s/s of bone marrow suppression. Daily CBC.
   - f/u onc recs
   # Hyponatremia: Likely result of chronic renal failure. [**Month (only) 8**] be SIADH as
   patient has neurologic involvement, but may also be volume depletion.
   Serum cortisol is high at 29.7, which may be a stress response to his
   pneumonia, but rules out adrenal insufficiency and Type 1 RTA.
   - Urine electrolytes as above
   # CAD s/p CABG [**2114**] (LBBB on previous EKG): Stable. Home dose
   metoprolol restarted yesterday as BP has stabilized. Not on a statin or
   ACE-I- would consider starting these as outpatient.
   -Continue metoprolol
   -Continue ASA
   # Chronic Diasolic heart failure. (EF 50%): No peripheral edema. Pacer
   in place with HR ~ 80 bpm.
   -Will continue gentle fluid correction with 250mL saline bolus as above
   and continue to monitor.
    # HTN: Stable. Continue to monitor. Continue metoprolol.
   # Hypercholesterolemia: Stable. Would consider statin as outpatient but
   would not start now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-2-15**] 02:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-02-17 10:23:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   Metabolic Acidosis
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with non-AG acidosis
   Patient with respiratory alkalosis
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2136-2-14**] 11:00 PM
   Azithromycin - [**2136-2-15**] 01:00 AM
   Ceftriaxone - [**2136-2-16**] 10:16 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-2-17**] 05:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2136-2-17**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 84 (80 - 88) bpm
   BP: 112/57(92) {91/50(61) - 136/72(92)} mmHg
   RR: 26 (22 - 38) insp/min
   SpO2: 87%
   Heart rhythm: AV Paced
             Total In:
                                                                    490 mL
                                                                    181 mL
   PO:
                                                                    200 mL
                                                                     80 mL
   TF:
   IVF:
                                                                    290 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    470 mL
   Urine:
                                                                  1,640 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,150 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 87%
   ABG: 7.46/22/89.[**Numeric Identifier 299**]/13/-5
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, Place, Movement: Not assessed, Tone:
   Not assessed, Improved speed of verbal responses
   Labs / Radiology
   9.5 g/dL
   150 K/uL
   99 mg/dL
   2.1 mg/dL
   13 mEq/L
   4.7 mEq/L
   53 mg/dL
   107 mEq/L
   135 mEq/L
   28.1 %
   11.8 K/uL
        [image002.jpg]
                             [**2136-2-15**]  02:02 AM
                             [**2136-2-15**]  02:35 AM
                             [**2136-2-15**]  04:57 AM
                             [**2136-2-15**]  06:32 AM
                             [**2136-2-15**]  04:35 PM
                             [**2136-2-16**]  04:07 AM
                             [**2136-2-16**]  09:46 AM
                             [**2136-2-16**]  04:15 PM
                             [**2136-2-17**]  05:26 AM
                             [**2136-2-17**]  08:20 AM
   WBC
   9.4
   10.8
   13.2
   11.8
   Hct
   26.2
   25.1
   29.4
   28.1
   Plt
   153
   131
   160
   150
   Cr
   2.5
   2.4
   2.3
   2.4
   2.3
   2.1
   TCO2
   14
   14
   16
   Glucose
   139
   100
   99
   126
   117
   99
   Other labs: PT / PTT / INR:15.5/37.3/1.4, Alk Phos / T Bili:/0.2,
   Differential-Neuts:71.1 %, Band:1.0 %, Lymph:21.0 %, Mono:6.9 %,
   Eos:0.8 %, Lactic Acid:1.3 mmol/L, LDH:308 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   81 yo male with h/o CML and now admit to ICU with tachypnea,
   tachycardia and altered mental status found to have penumonia/fevers
   and hyperkalemia and with significant improvement in mental status but
   with persistent tachypnea and respiratory alkalosis.  He has had
   continued trend to improvement with supportive care and Rx for PNA.  He
   has non-AG acidosis which may well be related to RTA given postiive
   urine AG.  His respiratory alkalosis may be more likely related to
   central sources.
   1) PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -CTX/Azithro
   -Continue to wean O2 as possible
   -He does have persistent lower lobe crackles which have failed to clear
   and remain bilateral
would suggest follow up imaging after completion
   of pneumonia course.
   2)Altered Mental Status-Much improved through to this morning with
   patient altert and interactive and appropriate
   -Continue to follow up remaining labs with RPR pending
   3)Hyperkalemia
Resolved at this time
   4)Acidosis
Cearly related to Renal source and most likley Type IV given
   increased K+ if I recall correctly.  Would suggest start of
   -HCO3- today as [**Hospital1 **] dosing
   -Resonable to consult renal if desired for long term management
   -This would unify K+ increase as well
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition: Supervised po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-2-15**] 02:30 AM
   Prophylaxis:
   DVT:  OOB today
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Patient to floor today
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes
   +

2136-02-18 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   No overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2136-2-17**] 08:02 PM
   Ceftriaxone - [**2136-2-17**] 10:03 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-2-18**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-18**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 83 (82 - 88) bpm
   BP: 106/53(66) {89/45(57) - 135/64(92)} mmHg
   RR: 24 (23 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
             Total In:
                                                                  1,042 mL
                                                                     76 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                    202 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    440 mL
   Urine:
                                                                  1,600 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -559 mL
                                                                   -364 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.46/22/89.[**Numeric Identifier 299**]/16/-5
   Physical Examination
   General: NAD, alert and oriented to person and place
   HEENT: mmm
   PULM:  clear without wheezes, rales, or rhonchi.
   CV: regular rate no mrg
   Abdomen: +bs, soft, NTND
   Extremities: Warm, no edema
   Peripheral Vascular: 2+ distal pulses bilaterally
   Skin:  Warm
   Labs / Radiology
   132 K/uL
   8.2 g/dL
   103 mg/dL
   2.2 mg/dL
   16 mEq/L
   4.2 mEq/L
   58 mg/dL
   106 mEq/L
   133 mEq/L
   24.1 %
   10.4 K/uL
        [image002.jpg]
                             [**2136-2-15**]  02:35 AM
                             [**2136-2-15**]  04:57 AM
                             [**2136-2-15**]  06:32 AM
                             [**2136-2-15**]  04:35 PM
                             [**2136-2-16**]  04:07 AM
                             [**2136-2-16**]  09:46 AM
                             [**2136-2-16**]  04:15 PM
                             [**2136-2-17**]  05:26 AM
                             [**2136-2-17**]  08:20 AM
                             [**2136-2-18**]  04:35 AM
   WBC
   9.4
   10.8
   13.2
   11.8
   10.4
   Hct
   26.2
   25.1
   29.4
   28.1
   24.1
   Plt
   153
   131
   160
   150
   132
   Cr
   2.4
   2.3
   2.4
   2.3
   2.1
   2.2
   TCO2
   14
   14
   16
   Glucose
   100
   99
   126
   117
   99
   103
   Other labs: PT / PTT / INR:15.5/37.3/1.4, Alk Phos / T Bili:/0.2,
   Differential-Neuts:71.1 %, Band:1.0 %, Lymph:21.0 %, Mono:6.9 %,
   Eos:0.8 %, Lactic Acid:1.3 mmol/L, LDH:308 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Assessment:  81 year-old male with a history of CML who presented to
   clinic with rigors, hyperkalemia, metabolic acidosis and
   acute-on-chronic renal failure.  Admitted for workup and became acutely
   agitated in CT.  Received iv ativan x1 and became unresponsive.
   #Pneumonia: Patient has congestion of pulmonary vessels on CXR, but
   this may be an evolving pneumonia. Patient has been saturating well on
   3L, so O2 via NC has been discontinued. Now saturating 98% on RA.
   - Ceftriaxone x 7 days (Today = Day 4) and Azithromycin x 5 days (Today
   = Day 4)
   - No CXR necessary as symptoms are resolving and patient is saturating
   well.
   #Alkalemia/Metabolic acidosis: ABG of 7.46/22/89 and bicarbonate of 13.
   Anion gap of 15, Delta/Delta of 6, Urinary anion gap of 46. This
   complicated picture is likely a respiratory alkalosis driven by
   tachypnea secondary to pneumonia, and a chronic metabolic acidosis,
   which may be due to his underlying kidney disease (the positive urinary
   anion gap is concerning for Type 4 RTA), or may be due to chronic
   hyperkalemia (H+/K+ membrane exchange). He has evolved from a non-anion
   gap to anion gap acidosis. Albumin levels are normal at 4.5. Lactate
   level of 1.5 makes lactic acidosis unlikely, urine was negative for
   ketones, so DKA unlikely. Patient previously had a non-anion gap
   metabolic acidosis yesterday of which the differential diagnosis
   included diarrhea or type 1, 2, 4 RTA, hyperalimentation, or normal
   saline fluid overload. Patient has not been on carbonic anhydrase
   inhibitors as far as can be ascertained. As hyponatremia has resolved,
   this is unlikely to be a type 1 RTA. Renal ultrasound showed no
   evidence of hydronephrosis and an incidental left renal cyst.
   - Will replete bicarbonate with 1300mg NaHCO3 [**Hospital1 **] (36 mEq bicarb/day)
   - Continue to monitor urine output (1150 mL in the past 24 hours)
   - Treating pneumonia as above
   # Hyperkalemia:  Resolving. Normal this morning at 4.7. Unclear cause,
   likely due to renal insufficiency or a consequence of his chronic
   metabolic acidosis. Will not start calcium gluconate yet because there
   are no PR interval changes on the ECG.
   -Will continue to monitor q day
   -If needed, would add D50 bolus with 10 U insulin to correct, or
   Kayexelate PR PRN.
   # Altered Mental Status:  Appears to be resolving, as patient
   expressive aphasia has decreased markedly since yesterday. Unclear if
   this is his baseline. No focal deficits on exam, and CT scan of 2 days
   ago showed no acute process. Unlikely to be related to pneumonia, as he
   has been treated with antibiotics for 3 days, has not been febrile, and
   does not have a leukocytosis. DFA negative, so influenza unlikely.
   -Urine legionella, C.Diff, and DFA are all negative.
   -RPR pending per BMT recommendations
   -Would consider repeat CT scan or MRI if symptoms worsen or patient is
   not at baseline.
    # Acute-on-Chronic Renal Failure: New FeNa of 0.9% suggests prerenal
   etiology in addition to his chronic intrinsic renal failure. Creatinine
   of 2.1 is above baseline of 1.5-2, but has been trending downwards from
   about ~2.5. FeNa yesterday was 2.5, which indicated renal etiology,
   however, new FeNa suggests a pre-renal etiology. Likely both factors
   are present.
   - Goal I/O: even. 250 mL normal saline boluses PRN
   hypotension/tachycardia.
   # CML: On dasatinib, followed here by Dr. [**Last Name (STitle) 221**]. Per last note by Dr.
   [**Last Name (STitle) 221**], patient has been tolerating dasatinib. Current dose of 50mg
   daily.
   - Will monitor for s/s of bone marrow suppression. Daily CBC.
   - f/u onc recs
   # Hyponatremia: Resolving. Normal today at 135. Likely result of
   chronic renal failure. [**Month (only) 8**] be SIADH as patient has neurologic
   involvement, but may also be volume depletion. Serum cortisol is high
   at 29.7, which may be a stress response to his pneumonia, but rules out
   adrenal insufficiency and Type 1 RTA.
   - Urine electrolytes as above
   # CAD s/p CABG [**2114**] (LBBB on previous EKG): Stable. Home dose
   metoprolol restarted yesterday as BP has stabilized. Not on a statin or
   ACE-I- would consider starting these as outpatient.
   -Continue metoprolol
   -Continue ASA
   # Chronic Diasolic heart failure. (EF 50%): No peripheral edema. Pacer
   in place with HR ~ 80 bpm.
   -Will continue gentle fluid correction with 250mL saline bolus as above
   and continue to monitor.
    # HTN: Stable. Continue to monitor. Continue metoprolol.
   # Hypercholesterolemia: Stable. Would consider statin as outpatient but
   would not start now.
   #Access: Patient has PIV. Can remove right EJ
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-2-17**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: